US09233985B2
While under nitrogen, a stirred mixture of methyl 2-amino-3-(4-chlorophenyl)propanoate hydrochloride (3.13 g, 12.5 mmol) in methylene chloride (42 mL) was cooled in an ice-water bath and carefully treated with pyridine (2.23 mL, 27.5 mmol) and ethyl chloroformate (1.27 mL, 13.3 mmol). After stirring for 1 h, the solution was diluted with ethyl acetate (50 mL) and water (50 mL), and the layers were separated. The aqueous phase was re-extracted with ethyl acetate (2×25 mL), and the combined organic phase was washed with saturated aqueous sodium chloride (25 mL), dried over Na2SO4 and concentrated under reduced pressure to give methyl 3-(4-chlorophenyl)-2-(ethoxycarbonylamino)propanoate (3.56 g, 99%) as a white solid. 1H NMR (CDCl3, 400 MHz) δ 7.28 (m, 2 H), 7.08 (m, 2 H), 5.12 (m, 1 H), 4.65 (m, 1 H), 4.13 (q, J=8 Hz, 2 H), 3.74 (s, 3 H), 3.10 (qd, J=16, 4.0 Hz, 2 H), 1.25 (t, J=8 Hz, 3 H). LC-MS gives ESI+ MS found for C13H16ClNO4 m/z 308.0 (M+Na), 286.0 (M+H).

reactant | methyl 2-amino-3-(4-chlorophenyl)propanoate hydrochloride | 12.5 mmol, 3.13 g | Cl.NC(C(=O)OC)CC1=CC=C(C=C1)Cl
reactant | pyridine | 27.5 mmol, 2.23 mL | N1=CC=CC=C1 | C5H5N
reactant | ethyl chloroformate | 13.3 mmol, 1.27 mL | ClC(=O)OCC | C3H5ClO2
solvent | methylene chloride | 42 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 50 mL | O | H2O
product | methyl 3-(4-chlorophenyl)-2-(ethoxycarbonylamino)propanoate | 3.56 g, 99% | ClC1=CC=C(C=C1)CC(C(=O)OC)NC(=O)OCC | C13H16ClNO4
